US07297708B2
1-(2,4-Dichloro-phenyl)-cyclopropanecarboxamidine
The crude 1-(2,4-Dichloro-phenyl)cyclopropanecarboximidic acid ethyl ester was dissolved in a solution NH3 (2.0 M in EtOH; 40 mL). Anhydrous NH3 (g) was bubbled into the solution until it was apparently saturated (60 min). The reaction mixture was stirred for 4 days. The solvent was evaporated and the desired product recrystallized from Ethyl acetate. (350 mg, 31%).

reactant | 1-(2,4-Dichloro-phenyl)cyclopropanecarboximidic acid ethyl ester | C(C)OC(=N)C1(CC1)C1=C(C=C(C=C1)Cl)Cl | C12H13Cl2NO
reactant | NH3 | 2.0 M, 40 mL | N | H3N
product | 1-(2,4-Dichloro-phenyl)-cyclopropanecarboxamidine | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=N)N | C10H10Cl2N2
